US07579474B2
4-(2,3-DICHLOROPHENYL)PIPERIDIN-4-OL
According to Preparation 2: Tert-butyl 4-(2,3-dichlorophenyl)-4-hydroxypiperidine-1-carboxylate (3.0 g, 8.7 mmol), methylen chloride (50 ml), trifluoroacetic acid (10 ml). Yield: 0.88 g. MS m/z (rel. intensity, 70 eV) 246 (M+, 8), 245 (14), 212 (34), 210 (bp), 192 (67).

reactant | Tert-butyl 4-(2,3-dichlorophenyl)-4-hydroxypiperidine-1-carboxylate | 8.7 mmol, 3.0 g | ClC1=C(C=CC=C1Cl)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H21Cl2NO3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylen chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(2,3-DICHLOROPHENYL)PIPERIDIN-4-OL | ClC1=C(C=CC=C1Cl)C1(CCNCC1)O | C11H13Cl2NO
